US04545995
N-[4-[4-(Diethylamino)-2-butenyl]phenyl]methanesulfonamide
Dissolve 3.5 g (0.014 mole) N,N-diethyl-4-(4-aminophenyl)-2-buten-1-amine in 50 ml of methylene chloride, chill to about 0° C. To this slowly add 1.5 ml (0.019 mole) of methanesulfonyl chloride. Stir at room temperature 1 hr and then wash with 2×50 ml of 10% NaOH. Wash the sodium hydroxide extracts with 1×100 ml of ether and then acidify to pH 10 with concentrated HCl. Extract with 2×100 ml methylene chloride and dry the methylene chloride extracts over Na2SO4. Evaporate to dryness to yield the title compound.

reactant | N,N-diethyl-4-(4-aminophenyl)-2-buten-1-amine | 0.014 mole, 3.5 g | C(C)N(CC=CCC1=CC=C(C=C1)N)CC | C14H22N2
reactant | methanesulfonyl chloride | 0.019 mole, 1.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[4-(Diethylamino)-2-butenyl]phenyl]methanesulfonamide | C(C)N(CC=CCC1=CC=C(C=C1)NS(=O)(=O)C)CC | C15H24N2O2S
